US07642264B2
3-Bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide
To a solution of commercially available 2-amino-2-methyl-1-propanol (8.91 g, 100 mmol) in dioxane (20 mL) at 5° C. was added commercially available 3-bromobenzenesulfonyl chloride (2.88 mL, 20 mmol) and the mixture was vigorously stirred at 23° C. for 1 h. Poured into 1 N HCl, diluted with EtOAc, separated phases, washed organic layer with brine, dried over Na2SO4. Removal of the solvent in vacuum left the title compound as a white solid (5.47 g, 89%). MS (ISN) 306.1 [(M−H)−] and 308.2 [(M+2−H)−]; mp 138° C.

reactant | 2-amino-2-methyl-1-propanol | 100 mmol, 8.91 g | NC(CO)(C)C | C4H11NO
reactant | 3-bromobenzenesulfonyl chloride | 20 mmol, 2.88 mL | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide | BrC=1C=C(C=CC1)S(=O)(=O)NC(CO)(C)C | C10H14BrNO3S
